US04435566
In the same manner as described in Example 17, 2-chloro-4-(2-hydroxyethyl)amino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine was reacted with anhydrous piperazine to obtain 4-(2-hydroxyethyl)amino-2-piperazino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine which was then recrystallized from ethanol. Colorless needles. Melting point: 116°-120° C.

reactant | 2-chloro-4-(2-hydroxyethyl)amino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)CCCS2)NCCO | C9H12ClN3OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-(2-hydroxyethyl)amino-2-piperazino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | OCCNC=1C2=C(N=C(N1)N1CCNCC1)CCCS2 | C13H21N5OS
